US05859007
2-[3-(1-tert-butoxycarbonyl-1H-indazol-3-ylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-phenyl-acetamide
To a solution of 427 mg of 2-(2,4-Dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl) acetamide in 5 mL of dry DMF at 0° C. is added 2.2 mL of a 0.5M solution of potassium bis(trimethylsilyl)amide in toluene. The reaction mixture is stirred for 30 min at 0° C. and a solution of 311 mg of 3-Bromomethyl-1-tert-butoxycarbonyl indazole, prepared as in Intermediate 1, in 2 mL of dry DMF is added dropwise. The reaction mixture is stirred overnight at rt, poured into water and the product extracted with ethyl acetate (2×15 mL). The solvent is removed in vacuo and the residue is purified by silica gel flash column chromatography (MeOH 1% CHCl3 99%) to afford 420 mg of the title compound: 1H NMR (400 MHz, CDCl3) δ8.03 (d, 1H, J=8.3), 7.86 (d, 1H, J=8.0), 7.51-7.18 (m, 14H), 7.10 (m, 1H), 6.94 (m, 1H), 5.02 (m, 1H,J=6.8), 4.32 (dd, 1H, J=8.9, 4.7), 4.24 (d, 1H, J=16.4), 4.22 (d, 1H, J=16.4), 3.85 (dd, 1H, J=16.5, 8.9), 3.53 (dd, 1H, J=16.5, 4.7), 1.64 (s, 9H), 1.07 (d, 6H, J=6.8).

reactant | 2-(2,4-Dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl) acetamide | 427 mg | O=C1CC(N(C2=C(N1CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C2=CC=CC=C2)=O | C27H27N3O4
reactant | potassium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 3-Bromomethyl-1-tert-butoxycarbonyl indazole | 311 mg | BrCC1=NN(C2=CC=CC=C12)C(=O)OC(C)(C)C | C13H15BrN2O2
reactant | water | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-[3-(1-tert-butoxycarbonyl-1H-indazol-3-ylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-phenyl-acetamide | 420 mg | C(C)(C)(C)OC(=O)N1N=C(C2=CC=CC=C12)CC1C(N(C2=C(N(C1=O)CC(=O)N(C1=CC=CC=C1)C(C)C)C=CC=C2)C2=CC=CC=C2)=O | C39H39N5O5
